US06057329
A slurry of potassium 2,6-dimethoxy-4-nitrophenolate [Collins, R. P. and Davis, M. J. Chem. Soc. (1961), 1986] (38 g, 160 mmol) in DMF (600 ml) was treated with 2-bromoethanol (25 ml, 353 mmol) and hexamethyl-phosphorus triamide (31 ml, 176 mmol) and the reaction heated at 115° for 6 h. After cooling, the reaction was poured onto 1M hydrochloric acid (1.5 l) and extracted with ethyl acetate (5×500 ml). The organics were washed with 1M sodium hydroxide (4×700 ml), brine (200 ml) and defined (MgSO4). Concentration in vacuo gave 3,5-dimethoxy-4-(2-hydroxyethoxy)nitro-benzene as an off white solid (31 g) δH (CDCl3) 7.52 (2H, s), 4.21 (2H, t, J 2.9 Hz), 3.94 (3H, s), 3.76 (2H, m) and 2.94 (1H, br s). MS (ES+) 266 (MNa+, 50%), 244 (MH+, 100%). A mixture of this nitrobenzene (750 mg, 3.16 mmol) and 10% palladium on carbon (75 mg) in ethanol (50 ml) was degassed and then subjected to an atmosphere of hydrogen (balloon) for 16 h. at 20°. Dichloromethane was added and the solution filtered and solvent removed in vacuo to give 3,5-dimethoxy-4-(2-hydroxyethoxy)-aniline as a grey solid (620 mg) after trituration with diethyl ether. δH (CDCl3 +DMSO) 5.84 (2H, s), 3.87-3.84 (2H, m), 3.64 (6H, s) and 3.52-3.49 (2H, m). MS (ES+) 214 (MH+, 100%.

reactant | potassium 2,6-dimethoxy-4-nitrophenolate | 160 mmol, 38 g | COC1=C(C(=CC(=C1)[N+](=O)[O-])OC)[O-].[K+]
reactant | 2-bromoethanol | 353 mmol, 25 ml | BrCCO | C2H5BrO
reactant | hydrochloric acid | 1M, 1.5 l | Cl | ClH
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-4-(2-hydroxyethoxy)nitro-benzene | COC=1C=C(C=C(C1OCCO)OC)[N+](=O)[O-] | C10H13NO6
